US07576095B2
Step 3 2-[4-(tert-Butyldimethylsilanyloxy)phenyl]-1-(2-chloro-4-fluorophenyl)-3-methyl-5-piperidin-1-yl-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one
3-{2-[4-(tert-Butyldimethylsilanyloxy)phenyl]-1-methyl-2-oxo-ethyl} -4-(2-chloro-4-fluorophenylamino)-5,6,3′,4′,5′,6′-hexahydro-2′H-[1,1′]bipyridinyl-2-one (1.135 g, 1.94 mmol) was suspended in toluene (5 ml) and toluene-4-sulfonic acid (0.037 g, 0.19 mmol) was added. The reaction mixture was heated in a microwave oven at 100° C. for 30 min. Water/toluene were added to the reaction mixture and the phases separated. The organic phase was washed with water, dried (MgSO4), filtered and evaporated to yield the crude product (crude 0.929 g).

reactant | 3-{2-[4-(tert-Butyldimethylsilanyloxy)phenyl]-1-methyl-2-oxo-ethyl} -4-(2-chloro-4-fluorophenylamino)-5,6,3′,4′,5′,6′-hexahydro-2′H-[1,1′]bipyridinyl-2-one | 1.94 mmol, 1.135 g | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)C(C(C)C=1C(N(CCC1NC1=C(C=C(C=C1)F)Cl)N1CCCCC1)=O)=O | C31H41ClFN3O3Si
reactant | toluene-4-sulfonic acid | 0.19 mmol, 0.037 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | Water toluene | O.C1(=CC=CC=C1)C
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[4-(tert-Butyldimethylsilanyloxy)phenyl]-1-(2-chloro-4-fluorophenyl)-3-methyl-5-piperidin-1-yl-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)C1=C(C=2C(N(CCC2N1C1=C(C=C(C=C1)F)Cl)N1CCCCC1)=O)C | C31H39ClFN3O2Si
